US07612114B2
6-{2-[4-(2-Diisopropylaminoethoxy)-3-fluorophenylamino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine and [2-(4-bromo-2-fluorophenoxy)ethyl]diisopropylamine according to an analogous synthetic method to Example 116, [4-(2-diisopropylaminoethoxy)-3-fluorophenyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (133 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (28 mg).

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | [2-(4-bromo-2-fluorophenoxy)ethyl]diisopropylamine | BrC1=CC(=C(OCCN(C(C)C)C(C)C)C=C1)F | C14H21BrFNO
reactant | [4-(2-diisopropylaminoethoxy)-3-fluorophenyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 133 mg | C(C)(C)N(CCOC1=C(C=C(C=C1)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)F)C(C)C | C32H41FN2O3
product | 6-{2-[4-(2-Diisopropylaminoethoxy)-3-fluorophenylamino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 28 mg | C(C)(C)N(CCOC1=C(C=C(C=C1)NC1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)F)C(C)C | C30H37FN2O3
